US03972900
A stirred mixture of 50 g of 2-acetyl-7-ethylbenzofuran, 3.0 g of paratoluenesulphonic acid and 45.0 g of ethyleneglycol in 1200 ml of toluene was heated under reflux for 12 hours with azeotropic removal of water. The cooled solution was washed successively with dilute sodium hydroxide solution, water and brine and then dried over anhydrous sodium sulphate. The sodium sulphate was filtered off and the filtrate evaporated to dryness. The residual yellow oil was distilled under nitrogen to give 48.6 g of 7-ethyl-2-(2-methyl-1,3-dioxolan-2-yl)benzofuran of boiling point 86°-88°C/0.05 mm Hg.

reactant | 2-acetyl-7-ethylbenzofuran | 50 g | C(C)(=O)C=1OC2=C(C1)C=CC=C2CC | C12H12O2
reactant | ethyleneglycol | 45.0 g | C(CO)O | C2H6O2
reactant | water | O | H2O
solvent | toluene | 1200 ml | C1(=CC=CC=C1)C | C7H8
catalyst | paratoluenesulphonic acid | 3.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 7-ethyl-2-(2-methyl-1,3-dioxolan-2-yl)benzofuran | 48.6 g | C(C)C1=CC=CC=2C=C(OC21)C2(OCCO2)C | C14H16O3
